data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_549663_1,[C:1](=[C:2](\[N:4]([H:11])[H:12])[C:5](=[O:7])[H:13])(\[N:3]([H:9])[H:10])[O:6][H:8]>>[C:1]1([N:3]([H:9])[H:10])([O:6][H:8])[C:2]([N:4]([H:11])[H:12])=[C:5]([H:13])[O:7]1,36.834877500026266
MR_322797_2,[C:1](=[C:2]([N:5]([H:13])[H:14])\[C:6](=[N:8]\[H:15])[H:16])(\[N:4]([H:11])[H:12])[O:7][N:3]([H:9])[H:10]>>[C:1](=[C:2](/[N:5]([H:13])[H:14])[O:7][N:3]([H:9])[H:10])([N:4]([H:11])[H:12])/[C:6](=[N:8]/[H:15])[H:16],61.44480000002801
MR_542874_1,[C@@:1]1([C:4]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[C@@:2]([C@@:3]([C:5]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([H:9])[O:8]1>>[C@@:1]([C:2](=[O:8])[H:9])([C@@:3]([C:5]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([C:4]([H:15])([H:16])[H:17])[N:6]([H:11])[H:12],27.553524999989065
MR_312881_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]([N:5]([O:8][H:10])[H:11])=[O:9])[O:7][C:2]([H:12])([H:13])[H:14]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:5]([O:8][H:10])[H:11])[C:6]([O:7][C:2]([H:12])([H:13])[H:14])=[O:9],69.56088500001101
MR_381463_1,[C:1](/[C:3](=[C:4]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:7]\[H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:6][H:8])[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5]([H:10])[N:7]1[H:9])([H:11])([H:12])[H:13],55.43586000000403
MR_12644_0,[C:1]([C:2](/[C:5](=[N:6]/[H:12])[H:15])([H:13])[H:14])([N:3]([H:8])[H:10])([N:4]([H:9])[H:11])[H:7]>>[C:1](\[C:2]([C:5]([N:6]([H:9])[H:12])([H:7])[H:15])([H:13])[H:14])([N:3]([H:8])[H:10])=[N:4]/[H:11],53.17184000001305
MR_409918_1,[C:1]([C:2]([N:4]([N:5]([H:14])[H:15])[H:10])([O:8][H:9])[H:12])([C:3]([N:6]([H:16])[H:17])([H:11])[H:13])=[O:7]>>[C:1]1([C:2]([N:4]([N:5]([H:14])[H:15])[H:10])([O:8][H:9])[H:12])([H:11])[C:3]([N:6]([H:16])[H:17])([H:13])[O:7]1,54.78514250000615
MR_578859_1,[C:1]([C:2]([O:7][H:11])=[O:8])([C:3]([N:5]([H:14])[H:15])=[O:9])([N:4]([H:12])[H:13])[O:6][H:10]>>[C:1](=[C:2](\[O:7][H:11])[O:8][C:3]([N:5]([H:14])[H:15])=[O:9])(\[N:4]([H:12])[H:13])[O:6][H:10],69.09465249997538
MR_193990_0,[C:1]([C:2]([N:4]([H:9])[H:10])=[O:8])(/[C:3]([N:5]([H:11])[H:12])=[C:7](\[N:6]([H:13])[H:14])[H:17])([H:15])[H:16]>>[C:1](=[C:3]([N:5]([H:11])[H:12])[C:7]([C:2]([N:4]([H:9])[H:10])=[O:8])([N:6]([H:13])[H:14])[H:17])([H:15])[H:16],71.3404750000123
MR_660650_1,[C:1]([C:2]([O:7][N:4]([H:8])[H:9])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:5]([H:11])[H:12])[N:6]([H:10])[H:13]>>[C:1]([C:2]([N:5]([H:11])[H:12])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:6]([H:10])[H:13])[O:7][N:4]([H:8])[H:9],63.96986000000197
MR_650137_1,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])/[C:6](=[N:8]\[H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:4](/[N:5]([H:9])[H:10])[C@:7]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:8]\[H:11])[H:12])[H:13])([H:14])([H:15])[H:16],47.1377999999811
MR_319173_0,[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[N:7](/[C:5](=[N:8]/[H:12])[H:13])[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[N:7]/[O:6][H:9])/[C:5](=[N:8]/[H:12])[H:13])([H:14])([H:15])[H:16],42.09018999999117
MR_15244_0,[C:1]([O:5][O:4][C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([H:7])([H:8])[H:9]>>[C:1]([O:5][O:6][C:3]([C:2]([H:10])([H:11])[H:12])=[O:4])([H:7])([H:8])[H:9],46.885544999975934
MR_46272_0,[N:1](/[C:3](=[C:4](/[C:2](=[O:5])[H:8])[H:10])[H:9])([H:6])[H:7]>>[N:1]([C:3]1([H:9])[C:4]([H:10])=[C:2]([H:8])[O:5]1)([H:6])[H:7],38.40425500000542
MR_442138_2,[C:1]([N:4]([C:2]([C:3]([H:15])([H:16])[H:17])([O:8][H:10])[H:13])[H:11])([C:5](=[C:6]([H:18])[H:19])[H:14])([O:7][H:9])[H:12]>>[C:1]([N:4]([C:2]([C:3]([H:15])([H:16])[H:17])=[O:8])[H:11])([C:5]([C:6]([H:10])([H:18])[H:19])([H:13])[H:14])([O:7][H:9])[H:12],53.811890000002194
MR_681810_2,[C@@:1]1([O:5][O:6][H:7])([H:9])[N:2]([H:8])[C:3]1=[C:4]([H:10])[H:11]>>[C:1](=[N:2]\[H:8])(\[C:3](=[C:4]([H:10])[H:11])[O:5][O:6][H:7])[H:9],57.61893249998536
MR_691921_2,[C:1]([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:5]([H:10])[H:11])([O:6][O:7][C:2]([H:12])([H:13])[H:14])[H:9]>>[C@@:1]([N:5]([H:10])[H:11])([O:6][C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([O:7][C:2]([H:12])([H:13])[H:14])[H:9],36.018499999982936
MR_86139_1,[C:1]([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][N:2]([H:6])[H:7])([H:8])[H:9]>>[C:1](=[C:3]([C:4]([O:5][N:2]([H:6])[H:7])([H:11])[H:12])[H:10])([H:8])[H:9],47.00665249999119
MR_195958_0,[N:1]([N:2]([O:5][H:6])[H:7])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11]>>[N:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[O:5][N:2]([H:6])[H:7],49.5743825000001
MR_67775_1,[C:1]([C:3]([C:2](=[O:7])[H:12])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:6]([C:5]([H:19])([H:20])[H:21])([N:8]([H:9])[H:11])[H:13])[H:10]>>[C:1]([C:3]([C:2]([O:7][H:9])([H:12])[H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])(/[C:6]([C:5]([H:19])([H:20])[H:21])=[N:8]/[H:11])[H:10],42.46606249996958
